US04016174
Preparation of 3-(p-diethylaminophenyl)-3-(1-ethyl-2-methyl-1H-benz[g]indol-3-yl)-4,5,6,7-tetrachlorophthalide.
A solution of about 6.5 grams of 3,4,5,6-tetrachloro-2-carboxy-4'-diethylaminobenzophenone and about 3.1 grams of 1-ethyl-2-methyl-1H-benz[g]indole in 50 milliliters of acetic anhydride is refluxed for about one hour and then cooled. That reaction mixture is poured over ice and ammonia, extracted twice with a 1:1 toluene-chloroform mixture and dried using sodium sulfate. The solution is concentrated by evaporation of the solvent and the title compound is crystallized by washing with petroleum ether. 9.3 grams of the title compound is obtained having a melting point of 232°-235° C. A solution of product imparts a blue color to paper coated with a phenolic resin or silton clay or a combination of the two. The calculated analysis for C33H28N2O2Cl4, the title compound, is C, 63.28%; H, 4.51%; N, 4.57%; and Cl, 22.64%. Found, on analysis: C, 63.37%; H, 4.42%; N, 4.54%; an Cl, 22.49%.

reactant | 3,4,5,6-tetrachloro-2-carboxy-4'-diethylaminobenzophenone | about 6.5 grams | ClC=1C(=C(C(=O)C2=CC=C(C=C2)N(CC)CC)C(=C(C1Cl)Cl)Cl)C(=O)O | C18H15Cl4NO3
reactant | 1-ethyl-2-methyl-1H-benz[g]indole | about 3.1 grams | C(C)N1C(=CC2=CC=C3C(=C12)C=CC=C3)C | C15H15N
reactant | ammonia | N | H3N
solvent | acetic anhydride | 50 milliliters | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(p-diethylaminophenyl)-3-(1-ethyl-2-methyl-1H-benz[g]indol-3-yl)-4,5,6,7-tetrachlorophthalide | 9.3 grams | C(C)N(C1=CC=C(C=C1)C1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C1=C(N(C2=C3C(=CC=C12)C=CC=C3)CC)C)CC | C33H28Cl4N2O2
